Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
chest pain, STEMI
 
Major Surgical or Invasive Procedure:
Coronary Cath procedure ___
 
History of Present Illness:
Ms. ___ is a ___ year old female with a past medical history 
of HTN and previous smoking history who presented to ___ 
after 2 hours of chest pain and found to have ST elevation in 
inferior leads. 

She says that she was at home babysitting her grandchildren and 
washing dishes when suddenly she experienced sub sternal and 
retrosternal chest tightness, with left arm pain. She was also 
having the sensation of severe SOB saying that she could not 
catch her breath. She says that the chest pain lasted a few 
minutes and was coming an going in waves. She took two aspirin 
325mg at home and the pain initially subsided, only to return 
shortly after at which point she took one of her husband's 
amlodipine's. Her pain remitted again but decided to present to 
the ED. 

At the ED her HR was 100 her BP was 160/70 and was satting well 
on room air. Her initial EKG was sinus without any changes but 
upon return of chest pain en EKG demonstrated ST elevations in 
the inferior leads and ST depressions in 1 and V2.  She was 
loaded with plavix 600mg, took 2 full dose aspirin at home, and 
given 4000 units of heparin in the ED. She also received 
sublingual nitro with remission of pain and transferred to ___ 
for STEMI management. 

Upon presentation to ___ she taken for emergent cath, and was 
found to have an occlusion of the OM1 off of the LCX. This was 
stented with good return of flow post stent. A right radial 
approach was done. 

 
 
Past Medical History:
PAST MEDICAL HISTORY:  
 1. CARDIAC RISK FACTORS  
 - Hypertension  
 - Dyslipidemia  
 2. CARDIAC HISTORY  
 - None  
3. OTHER PAST MEDICAL HISTORY 
- chronic low back pain 
 
Social History:
___
Family History:
FAMILY HISTORY:  
No family history of early MI, Grandfather had CAD at age ___, 
brothers without an CAD, mother had a history of Ankylosing 
spondylitis 
 
Physical Exam:
Admission Exam:
===============

VS: T 98.1  HR 71  BP 148/21 RR 16 O2 SAT 93% 
GENERAL: Well developed, well nourished in NAD. Oriented x3. 
Mood, affect appropriate.  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
Bilateral eyelid large xanthelasma.  
NECK: Supple. JVP at the clavicle with Hepatojugular reflex
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.    
PULSES: Distal pulses palpable and symmetric.

Exam On Discharge:
==================
PHYSICAL EXAMINATION:  

VS: T 98.1  HR 72  BP 122/75 RR 17 O2 SAT 94% 

GENERAL: Well appearing female laying in bed in no apparent pain 
or distress  
HEENT: Normocephalic atraumatic. Sclera anicteric. PERRL. EOMI. 
Conjunctiva were pink. No pallor or cyanosis of the oral mucosa. 
Bilateral eyelid large xanthelasma.  
NECK: Supple. JVP at the clavicle while at a 45 degree angle 
indicating that it is not elevated
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs, 
rubs, or gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is 
unlabored with no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No 
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or 
peripheral edema.    
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
Admission Labs: 

___ 12:38AM   cTropnT-0.05*
___ 12:38AM   cTropnT-0.05*
___ 06:13AM   ___ PTT-30.0 ___
___ 06:13AM   PLT COUNT-216
___ 06:13AM   WBC-10.1* RBC-4.18 HGB-11.7 HCT-36.7 MCV-88 
MCH-28.0 MCHC-31.9* RDW-13.2 RDWSD-42.5
___ 06:13AM   TRIGLYCER-214* HDL CHOL-36* CHOL/HDL-6.5 
LDL(CALC)-156*
___ 06:13AM   %HbA1c-5.3 eAG-105
___ 06:13AM   CALCIUM-8.2* PHOSPHATE-3.8 MAGNESIUM-2.1 
CHOLEST-235*
___ 06:13AM   estGFR-Using this
___ 06:13AM   GLUCOSE-87 UREA N-8 CREAT-0.6 SODIUM-143 
POTASSIUM-3.9 CHLORIDE-107 TOTAL CO2-25 ANION GAP-11

Imaging:
TTE: ___:
- No focal post MI wall abnormalities

The left atrial volume index is normal. There is mild symmetric 
left ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>60%). Tissue Doppler 
imaging suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). There is no ventricular septal defect. Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets (3) appear structurally normal 
with good leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/global systolic function. No 
pathologic valvular flow.

Studies: 

cath ___ 90% left cx OM2 occlusion s/p ___

___:

None 

Discharge labs:

___ 06:04AM BLOOD WBC-10.1* RBC-4.72 Hgb-13.5 Hct-40.8 
MCV-86 MCH-28.6 MCHC-33.1 RDW-13.1 RDWSD-41.0 Plt ___
___ 06:04AM BLOOD Glucose-103* UreaN-11 Creat-0.6 Na-140 
K-4.2 Cl-101 HCO3-26 AnGap-13
___ 06:04AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.1
___ 06:13AM BLOOD %HbA1c-5.3 eAG-105
___ 06:13AM BLOOD Triglyc-214* HDL-36* CHOL/HD-6.5 
LDLcalc-156*

 
Brief Hospital Course:
Summary:
=========
Ms. ___ is a ___ year old female with a past medical history 
of HTN and previous smoking history who presented with 2 hours 
of CP to ___ found to have ST elevation in inferior leads. 
The patient as taken to the Cath lab at ___ and stented with a 
DES in the OM2 of the Left Circumflex artery. She was then 
followed in the CCU and medically optimized. She had a TTE which 
did not show any focal wall motion abnormalities. 

# ACUTE CORONARY SYNDROME/INFERIOR STEMI: Patient had acute 
onset chest pain and EKG changes consistent with an inferior 
STEMI. In the cath lab she was found to have 90% occlusion of 
the left Cx OM2 branch which was traversed with the wire and 
stented with a DES. She was loaded with Plavix and ASA at the 
outside hospital. The patient is a Killip Class I 6% mortality 
based on an updated study in JAMA performed at ___ 
and ___ published in ___. We continued the 
following meds Aspirin 81mg daily, Clopidogrel 75mg daily, 
Atorvastatin 80mg Daily; We got a TTE which showed normal wall 
movement throughout. with an EF of >60%. 

She was started on Plavix 75mg and deferred the use of 
Ticagrelor in her case based on increased bleeding risk given 
that she is known to take Ibuprofen at home, and also based on 
her preference not to take a BID medication. We also gave her 
prescription for pantoprazole 40mg QD as an outpatient for GI 
prophylaxis given her risk now on ASA and Plavix and known usage 
of Ibuprofen. 

# Hypertension: BP is 106/56 on admission, will hold 
anti-hypertensive meds for now

#Nicotine Education: we counseled the patient on the importance 
of quitting 

#Chronic Pain: we continued her home chronic pain meds, her 
oxycodone, and gabapentin, and started her on Tylenol ___ 
TID. 

Transitional Issues:
====================
[ ] Patient will need to be on Clopidogrel for at least ___ year
[ ] Patient will follow up with Dr. ___ ___ at 
03:00pm at ___ 
[ ] Patient will need to stop taking Ibuprofen at home for 
cardiac risks and bleeding risks now that she is on ASA and 
Plavix
[ ] Patient will be given a prescription for Pantoprazole 40mg 
once daily to take while on DAPT in case she continues to use 
ibuprofen
[ ] Patient will need cardiac rehab as an outpatient
[ ] Would consider a carotid US for L bruit as an outpatient 

New Meds:
=========
[ ] Rosuvastatin 40mg daily
[ ] Metoprolol Succinate 25mg daily
[ ] Lisinopril 5mg daily 
[ ] Aspirin 81mg daily
[ ] Plavix 75mg daily
[ ] Pantoprazole 40mg daily (PRN if decides to keep using 
ibuprofen)

Meds Stopped:
=============
[ ] Ibuprofen 600 mg stopped for increased risk of bleeding on 
ASA and Plavix now 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Gabapentin 400 mg PO TID 
2. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - Moderate 

3. Ibuprofen 600 mg PO BID:PRN Pain - Moderate 
4. Cyclobenzaprine 5 mg PO BID:PRN back pain 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Aspirin 81 mg PO DAILY  
3.  Clopidogrel 75 mg PO DAILY  
4.  Lisinopril 5 mg PO DAILY  
5.  Metoprolol Succinate XL 25 mg PO DAILY  
6.  Pantoprazole 40 mg PO Q24H  
7.  Rosuvastatin Calcium 40 mg PO QPM  
8.  Cyclobenzaprine 5 mg PO BID:PRN back pain  
9.  Gabapentin 400 mg PO TID  
10.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  

1.  Acetaminophen 1000 mg PO Q8H  
2.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
5.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
6.  Pantoprazole 40 mg PO Q24H 
Use if taking ibuprofen 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Rosuvastatin Calcium 40 mg PO QPM 
RX *rosuvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
8.  Cyclobenzaprine 5 mg PO BID:PRN back pain  
9.  Gabapentin 400 mg PO TID  
10.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
#ST elevation Myocardial Infarction
#Hypertension
#Nicotine use disorder
#Hyperlipidemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you on this hospital stay.

What Happened on this hospital admission?

- You were admitted for a heart attack 
- You were taken for a procedure to open up the blocked artery 
in your heart
- You were watched in the CCU and started on some new 
medications to manage your heart recovery after your heart 
attack
- You had an Ultrasound of your heart to evaluate the damage 
sustained, it appeared normal

Things that you should do once you leave the hospital

- It is very important that you take your new medications as 
prescribed
- It is extremely important that you take your Plavix every day 
for at least ___ year and follow up with Dr. ___ medications 
management
- It is very important that you take 81mg Aspirin daily for the 
rest of your life
- It is very important that you do not take your ibuprofen as 
this is a very high risk medication for bleeding in your stomach 
and puts you at increased risk for more heart damage
- If you take any Ibuprofen you should start taking Pantoprazole 
to protect your stomach 

 
Followup Instructions:
___